US03962438
A mixture of 21.8 g. (0.112 mol.) of 3-chloro-1,2-diacetoxypropane, 28.0 g. (0.083 mol.) of 10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione and 3.36 g. (0.080 mol.) of sodium hydride in 200 ml. of dry dimethylformamide was heated at 100°-110° for 40 hours in the presence of a catalytic amount of potassium iodide. The reaction mixture was filtered and the filtrate was evaporated to dryness under reduced pressure to give 2-(2,3-diacetoxypropyl)-10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione.

reactant | 3-chloro-1,2-diacetoxypropane | 0.112 mol | ClCC(COC(C)=O)OC(C)=O | C7H11ClO4
reactant | 10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione | 0.083 mol | FC(C1=CC=2N3C4=C(C=CC=C4SC2C=C1)C(NC3=O)=O)(F)F | C15H7F3N2O2S
reactant | sodium hydride | 0.080 mol | [H-].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(2,3-diacetoxypropyl)-10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione | C(C)(=O)OC(CN1C(N2C3=C(C=CC=C3SC=3C=CC(=CC23)C(F)(F)F)C1=O)=O)COC(C)=O | C22H17F3N2O6S
